US09370515B2
Preparation of 3-(5,6-dimethoxybenzo[b]thiophen-2-yl)-N-(3,4-dimethoxyphenyl)-N-methylimidazo[1,2-b]pyridazin-6-amine
To a solution of 3-(5,6-dimethoxybenzo[b]thiophen-2-yl)-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine (50 mg, 0.108 mmol, 1.0 equiv) in DMF (5.0 mL) was added NaH (13 mg, 0.324 mmol, 3.0 equiv) followed by iodomethane (0.07 mL, 0.541 mmol, 5.0 equiv). After 1 h, the reaction was quenched with saturated aqueous solution of ammonium chloride then extracted with ethyl acetate. Purification by column chromatography using 2% methanol in dichloromethane elution gave 30 mg of the brown solid, 58%.

reactant | 3-(5,6-dimethoxybenzo[b]thiophen-2-yl)-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine | 0.108 mmol, 50 mg, 1.0 equiv | COC1=CC2=C(SC(=C2)C2=CN=C3N2N=C(C=C3)NC3=CC(=C(C=C3)OC)OC)C=C1OC | C24H22N4O4S
reactant | NaH | 0.324 mmol, 13 mg, 3.0 equiv | [H-].[Na+]
reactant | iodomethane | 0.541 mmol, 0.07 mL, 5.0 equiv | IC | CH3I
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 3-(5,6-dimethoxybenzo[b]thiophen-2-yl)-N-(3,4-dimethoxyphenyl)-N-methylimidazo[1,2-b]pyridazin-6-amine | 30 mg | COC1=CC2=C(SC(=C2)C2=CN=C3N2N=C(C=C3)N(C)C3=CC(=C(C=C3)OC)OC)C=C1OC | C25H24N4O4S
